US06911445B2
N-Benzyl-3-(5-fluoro-1-methyl-1H-indol-3yl)-cyclopentylamine
This compound was prepared in the same manner as for Intermediate 17, using 3-(5-fluoro-1-methyl-1H-indol-3-yl)-cyclopentanone (1.25 g, 5.19 mmol) and benzylamine (0.66 g, 6.2 mmol) to afford 1.7 g of the desired product as a mixture of cis and trans isomers. Flash chromatography on silica gel (3% 2 M NH3 in methanol/ethyl acetate) afforded 0.4 g (23%) of the cis isomer and 0.45 g (27%) of the trans isomer.

reactant | 3-(5-fluoro-1-methyl-1H-indol-3-yl)-cyclopentanone | 5.19 mmol, 1.25 g | FC=1C=C2C(=CN(C2=CC1)C)C1CC(CC1)=O | C14H14FNO
reactant | benzylamine | 6.2 mmol, 0.66 g | C(C1=CC=CC=C1)N | C7H9N
product | N-Benzyl-3-(5-fluoro-1-methyl-1H-indol-3yl)-cyclopentylamine | 1.7 g | C(C1=CC=CC=C1)NC1CC(CC1)C1=CN(C2=CC=C(C=C12)F)C | C21H23FN2
